US08623889B2
To an ice-cooled solution of tert-butyl 6-chloro-4-formylpyridin-3-ylcarbamate (1.0091 g, 3.9313 mmol) in tetrahydrofuran (20 mL, 200 mmol) in an oven-dried flask was added 3.0 M of methylmagnesium iodide in ether (3.4 mL). The reaction mixture was stirred at 0° C. for one hour and then quenched with 10 mL saturated aqueous NH4Cl. The resulting mixture was partitioned between ethyl acetate and saturated aqueous NaHCO3, and the organic layer was dried with brine and MgSO4 and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 0-40% ethyl acetate in heptane) to yield 0.870 g (81%) of tert-butyl 6-chloro-4-(1-hydroxyethyl)pyridin-3-ylcarbamate. LCMS (ESI): M+H=273.2; 1H NMR (400 MHz, DMSO) δ 8.89 (s, 1H), 8.43 (s, 1H), 7.45 (s, 1H), 5.76 (s, 1H), 4.95 (d, J=6.4 Hz, 1H), 1.46 (s, 9H), 1.28 (d, J=6.5 Hz, 3H).

reactant | tert-butyl 6-chloro-4-formylpyridin-3-ylcarbamate | 3.9313 mmol, 1.0091 g | ClC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C=O | C11H13ClN2O3
reactant | tetrahydrofuran | 200 mmol, 20 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium iodide | 3.0 M | C[Mg]I
solvent | ether | 3.4 mL | CCOCC | C4H10O
product | tert-butyl 6-chloro-4-(1-hydroxyethyl)pyridin-3-ylcarbamate | 0.870 g, 81% | ClC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C(C)O | C12H17ClN2O3
